US04775674
A mixture of 1,3-dihydro-7-[[3-(1-methylethyl)-2-oxo-5-oxazolidinyl]methoxy]-2H-imidazo[4,5-b]quinolin-2-one (3.00 g, 8.8 mmol) and 2N sodium hydroxide solution (25 mL) was refluxed for 5.5 hours and then neutralized by addition of dilute hydrochloric acid solution. A grey solid (2.15 g, 77%) was filtered off, washed with water and air dried. Crystallization from methanol afforded 1,3-dihydro-7-[2-hydroxy-3-[(1-methylethyl)amino]propoxy]-2H-imidazo[4,5-b]quinolin-2-one as a partial hydrate (1.53 g, 55%), m.p. 262°-264° C.

reactant | 1,3-dihydro-7-[[3-(1-methylethyl)-2-oxo-5-oxazolidinyl]methoxy]-2H-imidazo[4,5-b]quinolin-2-one | 8.8 mmol, 3.00 g | CC(C)N1C(OC(C1)COC1=CC=2C=C3C(=NC2C=C1)NC(N3)=O)=O | C17H18N4O4
reactant | sodium hydroxide | 2N, 25 mL | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
product | 1,3-dihydro-7-[2-hydroxy-3-[(1-methylethyl)amino]propoxy]-2H-imidazo[4,5-b]quinolin-2-one | OC(COC1=CC=2C=C3C(=NC2C=C1)NC(N3)=O)CNC(C)C | C16H20N4O3
